US06930100B2
Step A. (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-1-hydroxymethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-IV)
To a mixture of (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-II) (60.0 g, 0.167 mol) and K2CO3 (27.7 g, 0.20 mol) in THF (600 mL) was added formaldehyde (37% solution in H2O, 240 mL, 3.2 mol) followed by H2O (300 mL). The lightly turbid mixture was stirred at room temperature for 3 hours, and diluted with diethyl ether (1000 mL). The organic layer was separated. The aqueous layer was washed with ether (200 mL×2). The combined organic layer was washed with brine, dried over Na2SO4. Evaporation of solvents provided the title compound as a white dry foam (64.5 g, 99% yield). LC/MS m/e: 390 (MH+), 96% purity. 1H NMR (CDCl3): δ 3.50 (s, 3H), 5.28 (m, 1H), 5.45 (m, 1H), 6.75 (dd, J=1.5, 6.5 Hz, 1H), 7.24 (m, 1H), 7.34 (m, (m, 3H), 7.79 (dd, J=1.0, 3.0 Hz, 1H).

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | 0.167 mol, 60.0 g | ClC=1C=CC(=C(C1)[C@@]1(C(NC2=CC(=CC=C12)C(F)(F)F)=O)F)OC | C16H10ClF4NO2
reactant | K2CO3 | 0.20 mol, 27.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | formaldehyde | 3.2 mol, 240 mL | C=O | CH2O
reactant | H2O | 300 mL | O | H2O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 1000 mL | C(C)OCC | C4H10O
product | (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-1-hydroxymethyl-6-trifluoromethyl-1,3-dihydro-indol-2-one | ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)CO)=O)F)OC | C17H12ClF4NO3
